US07442529B2
2-(2-Phenylsulfonylmethyl-5-nitrophenyl)-1,3-dioxolane (400 mg, 1.14 mmol) was dissolved in AcOH (8 mL) and water (2 mL). The solution was refluxed for 5 h and then concentrated under reduced pressure. The resulting solid was confirmed as the desired product by NMR and used in the next step without further purification. In a 25 mL round bottom flask, 5-nitro-2-phenylsufonylmethylbenzaldehyde (300 mg, 1.00 mmol), diethylmaleate (195 μL, 207 mg, 1.20 mmol) and 18-crown-6 (13 mg, 0.05 mmol) were dissolved in acetonitrile (10 mL). K2CO3 (700 mg) was added and the resulting mixture was stirred for 30 min. The reaction was refluxed for 3 h, then filtered over celite and concentrated under reduced pressure. The resulting dark oily residue was purified by flash chromatography (30% EtOAc/hexanes) to give diethyl 6-nitro-2,3-naphthalenedicarboxylate (231 mg, 64%, Rf=0.35 20% EtOAc/hexanes). 1H-NMR (400 MHz, CDCl3, δ): 1.42 (t, 3H, J=7.1 Hz), 1.43 (t, 3H, J=7.1 Hz), 4.45 (c, 4H, J=7.1 Hz), 8.07 (d, 1H, J=9.0 Hz), 8.31 (s, 1H), 8.37 (dd, 1H, J1=9.0 Hz, J2=2.1 Hz), 8.47 (s, 1H), 8.87 (d, 1H, J=1.8 Hz). 13C-NMR (100 MHz, CDCl3, δ): 167.1, 166.7, 147.2, 135.9, 132.8, 132.3, 131.9, 130.9, 130.5, 129.9, 129.7, 125.13, 121.9, 62.36, 14.33. HRMS-ESI (m/z): [M+H+] calcd for C16H15NO6 318.0972, found, 318.0986.

reactant | 2-(2-Phenylsulfonylmethyl-5-nitrophenyl)-1,3-dioxolane | 1.14 mmol, 400 mg | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C=C(C=C1)[N+](=O)[O-])C1OCCO1 | C16H15NO6S
reactant | 5-nitro-2-phenylsufonylmethylbenzaldehyde | 1.00 mmol, 300 mg | [N+](=O)([O-])C=1C=CC(=C(C=O)C1)CS(=O)(=O)C1=CC=CC=C1 | C14H11NO5S
reactant | diethylmaleate | 1.20 mmol, 195 μL, 207 mg | C(C)/C(=C(/C(=O)[O-])\CC)/C(=O)[O-]
reactant | K2CO3 | 700 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | AcOH | 8 mL | CC(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | 18-crown-6 | 0.05 mmol, 13 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | diethyl 6-nitro-2,3-naphthalenedicarboxylate | 231 mg | [N+](=O)([O-])C=1C=C2C=C(C(=CC2=CC1)C(=O)OCC)C(=O)OCC | C16H15NO6
